US06063782
Methyl 1-(2-bromoethyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate
The title compound was prepared as ocherous crystals in 9.4% yeild in a similar procedure to that described in Referential Example 9 by using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 1,2-dibromoethane.

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
product | Methyl 1-(2-bromoethyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate | BrCCN1C(=C(C(=C1C)C)C=O)C(=O)OC | C11H14BrNO3
